US03933807
2-p-Nitrobenzoylthiophene (2.33 g.) was allowed to react with potassium cyanide (3.9 g., 6 mols) in dimethyl sulphoxide (40 ml.) at 100°C for 31/2 hours. The solution was poured into water and the cloudiness removed with charcoal. The clear filtrate gave a precipitate on acidification; this was collected and crystallised from aqueous ethanol to give 2-(3-cyano-4-hydroxybenzoyl)thiophene, m.p. 216°C.

reactant | 2-p-Nitrobenzoylthiophene | 2.33 g | [N+](=O)([O-])C1=CC=C(C(=O)C=2SC=CC2)C=C1 | C11H7NO3S
reactant | potassium cyanide | 6 mols, 3.9 g | [C-]#N.[K+]
reactant | water | O | H2O
solvent | dimethyl sulphoxide | 40 ml | CS(=O)C | C2H6OS
product | 2-(3-cyano-4-hydroxybenzoyl)thiophene | C(#N)C=1C=C(C(=O)C=2SC=CC2)C=CC1O | C12H7NO2S
